US04031093
A mixture of 5-chlorosalicylamide (16.0 g., 0.093 mole), iodoethane (31.8 g., 0.204 mole), and potassium carbonate (13.1 g., 0.095 mole) in ethanol (225 ml.) was heated under reflux for 20 hours. The hot mixture was filtered. The filtrate was reduced to dryness. The residue was triturated with water. The mixture was filtered and the collected solid recrystallized from acetonitrile to give 5-chloro-2-ethoxybenzamide (6.8 g., 36.6%) m.p. 136°-139°.

reactant | 5-chlorosalicylamide | 0.093 mole, 16.0 g | ClC1=CC=C(C(C(=O)N)=C1)O | C7H6ClNO2
reactant | iodoethane | 0.204 mole, 31.8 g | ICC | C2H5I
reactant | potassium carbonate | 0.095 mole, 13.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | 5-chloro-2-ethoxybenzamide | 6.8 g, 36.6% | ClC=1C=CC(=C(C(=O)N)C1)OCC | C9H10ClNO2
